US06995171B2
To a 0° C. solution of 5-Methoxy-2-methyl-1H-indole (5 g, 31.0 mmol), dry acetonitrile, (90 mL) was slowly added chlorosulfonyl isocyanate (3 mL, 34.1 mmol). The reaction was stirred and allowed to warm to room temperature and stirred for an additional four hours followed by the addition of dimethyl formamide (4.8 mL (62.0 mmol)and then stirred for an additional 1.5 hours at room temperature. The reaction was poured into water and extracted with diethyl ether. The aqueous layer was adjusted to pH 9 with 1M potassium carbonate, and extracted with diethyl ether. The ether layers were combined and dried over magnesium sulfate, filtered and concentrated. Crystallization of the residue from ether and hexane gave 5-methoxy-2-methyl-1H-indole-3-carbonitrile (3.86 g) in 67% yield as a light pink solid. C11H10N2O: GC/MS r.t.=4.06 min., m/z 186; 1H NMR (CDCl3): δ 7.22 (d, 1H, J=8.3 Hz), 7.08 (s, 1H), 6.86 (d, 1H, J=8.3 Hz), 3.86 (s, 3H), 2.60 (s, 3H) ppm.

reactant | 5-Methoxy-2-methyl-1H-indole | 31.0 mmol, 5 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | acetonitrile | 90 mL | C(C)#N | C2H3N
reactant | chlorosulfonyl isocyanate | 34.1 mmol, 3 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-methoxy-2-methyl-1H-indole-3-carbonitrile | 3.86 g, 67% yield | COC=1C=C2C(=C(NC2=CC1)C)C#N | C11H10N2O
